US07790709B2
Preparation of (E)-N-Methyl-N-(3-methyl-benzo[b]thiophen-2-ylmethyl)-3-[4-(2-morpholin-4-yl-ethyl)-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl]acrylamide hydrochloride
According to the procedure of Example 1, except substituting methyl-(3-methyl-benzo[b]thiophen-2-ylmethyl)amine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, and substituting (E)-3-[4-(2-morpholin-4-yl-ethyl)-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl]acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, the title compound (90 mg, 74%) was prepared as a tan solid: 1H NMR (300 MHz, DMSO-d6) δ 10.58 (br s, 2H), 8.62 (s, 1H), 8.27-8.25 (m, 1H), 7.88-7.86 (m, 1H), 7.75-7.72 (m, 1H), 7.61-7.53 (m, 1H), 7.42-7.29 (m, 3H), 5.15-4.89 (m, 2H), 4.03-3.65 (m, 12H), 3.28-3.17 (m, 4H), 3.01-2.64 (m, 3H), 2.42 (s, 3H); MS (ESI) m/e 520 (M+H)+.

reactant | methyl-(3-methyl-benzo[b]thiophen-2-ylmethyl)amine | CNCC1=C(C2=C(S1)C=CC=C2)C | C11H13NS
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
reactant | (E)-3-[4-(2-morpholin-4-yl-ethyl)-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl]acrylic acid hydrochloride | Cl.N1(CCOCC1)CCN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
product | (E)-N-Methyl-N-(3-methyl-benzo[b]thiophen-2-ylmethyl)-3-[4-(2-morpholin-4-yl-ethyl)-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl]acrylamide hydrochloride | 90 mg, 74% | Cl.CN(C(\C=C\C1=CC2=C(NC(CN(C2)CCN2CCOCC2)=O)N=C1)=O)CC1=C(C2=C(S1)C=CC=C2)C | InChI=1S/C28H33N5O3S.ClH/c1-20-23-5-3-4-6-24(23)37-25(20)18-31(2)27(35)8-7-21-15-22-17-33(10-9-32-11-13-36-14-12-32)19-26(34)30-28(22)29-16-21;/h3-8,15-16H,9-14,17-19H2,1-2H3,(H,29,30,34);1H/b8-7+;
